US07153997B2
Triethylsilane was added to a mixture of methyl[3,5-dibromo-4-(3-formyl-4-hydroxy-5-isopropylphenoxy)phenyl]acetate (243 mg, 0.5 mmol) and trifluoroacetic acid (10 mL) at room temperature. After 12 hours stirring, the reaction mixture was concentrated via co-evaporated with toluene. The residue was purified on column (silica, gradient elution: n-heptane/ethyl acetate from 9:1 to 7:3) to give 197 mg (84%) of methyl[3,5-dibromo-4-(4-hydroxy-3-isopropyl-5-methylphenoxy)phenyl]acetate.

reactant | Triethylsilane | C(C)[SiH](CC)CC | C6H16Si
reactant | methyl[3,5-dibromo-4-(3-formyl-4-hydroxy-5-isopropylphenoxy)phenyl]acetate | 0.5 mmol, 243 mg | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C(=C1)C(C)C)O)C=O)Br)=O | C19H18Br2O5
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | methyl[3,5-dibromo-4-(4-hydroxy-3-isopropyl-5-methylphenoxy)phenyl]acetate | 197 mg, 84% | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C(=C1)C)O)C(C)C)Br)=O | C19H20Br2O4
